US07161032B2
In ethanol (10 ml) was dissolved 0.60 g (2 mmol) of ethyl 2-(benzyloxycarbonylamino)-2-methylpropane-1-sulfinate, and 0.9 g (2.2 mmol) of 10% aqueous sodium hydroxide solution was slowly dropped thereinto under ice-cooling. The reaction was carried out at room temperature for 1 hour and then the ethanol was distilled off. Water (10 ml), 0.18 g (2.2 mmol) of sodium acetate and 0.25 g (2.2 mmol) of hydroxylamine-O-sulfonic acid were added to the residue, and the reaction was carried out at room temperature for 1 hour. The reaction mixture was poured into water, followed by three runs of extraction with ethyl acetate. The extract solution was washed with saturated aqueous sodium hydrogencarbonate solution and then saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was distilled off and 0.49 g (yield 86%) of the thus obtained crude 2-(benzyloxycarbonylamino)-2-methylpropane-1-sulfonamide was used without further purification in the subsequent reaction.

reactant | ethyl 2-(benzyloxycarbonylamino)-2-methylpropane-1-sulfinate | 2 mmol, 0.60 g | C(C1=CC=CC=C1)OC(=O)NC(CS(=O)OCC)(C)C | C14H21NO4S
reactant | sodium hydroxide | 2.2 mmol, 0.9 g | [OH-].[Na+]
reactant | sodium acetate | 2.2 mmol, 0.18 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine-O-sulfonic acid | 2.2 mmol, 0.25 g | NOS(=O)(=O)O | H3NO4S
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | Water | 10 ml | O | H2O
product | 2-(benzyloxycarbonylamino)-2-methylpropane-1-sulfonamide | yield 86% | C(C1=CC=CC=C1)OC(=O)NC(CS(=O)(=O)N)(C)C | C12H18N2O4S
